US08334236B2
(3) Production of (2-(6-methoxy-3-pyridinyl)amino-3-pyridinyl)methanol
Under a nitrogen gas stream, 2.1 g (56 mmol) of lithium aluminum hydride was added to tetrahydrofuran (100 mL) under ice cooling, and a tetrahydrofuran (60 mL) solution of 6.8 g (28 mmol) of methyl 2-(6-methoxy-3-pyridinyl)aminonicotinate was added dropwise to the above solution. The resulting mixture was stirred for 2 hours at room temperature. Ethyl acetate was added to the reaction mixture, and 23 mL of a 10% aqueous solution of sodium hydroxide was further added thereto. Insoluble materials were filtered off. The filtrate was concentrated, and the residue was dissolved in ethyl acetate, dried, filtered, and concentrated. 6.6 g of the title compound was obtained as a yellow viscous product (yield: quantitative).

reactant | lithium aluminum hydride | 56 mmol, 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | methyl 2-(6-methoxy-3-pyridinyl)aminonicotinate | 28 mmol, 6.8 g | COC1=CC=C(C=N1)NC1=C(C(=O)OC)C=CC=N1 | C13H13N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-(6-methoxy-3-pyridinyl)amino-3-pyridinyl)methanol | 6.6 g | COC1=CC=C(C=N1)NC1=NC=CC=C1CO | C12H13N3O2
